US04264525
Analysis of APAP Compared to USP Standards
The following analysis compares a typical APAP product produced by the stepwise/boric acid process of this invention with high purity standards. For this example 30 lbs. of p-nitrophenol was hydrogenated at 63°-67° C. by stepwise acetylation using 10 mole percent boric acid and adding 50% acetic anhydride after completing 60% of the hydrogenation. Product yield was about 85%.

reactant | p-nitrophenol | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | boric acid | B(O)(O)O | BH3O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | APAP | yield was about 85% | CC(=O)NC=1C=CC(=CC1)O | C8H9NO2
